US06943159B1
2-Amino-5-sulfamoylbenzenesulfonamide:
A stirred suspension of 2-amino-4-chloro-5-sulfamoylbenzenesulfonamide (11.4 g; 40 mmol) and 10% Pd/C (750 mg) in EtOH (300 ml) was hydrogenated at 1 bar until hydrogen consumption ceased (24 h). The reaction mixture was evaporated to dryness, resuspended in THF and filtered through celite. The filtrate was evaporated to dryness and the isolated solid washed with boiling EtOAc (2×150 ml) to give 9.58 g (95%) product.

reactant | 2-amino-4-chloro-5-sulfamoylbenzenesulfonamide | 40 mmol, 11.4 g | NC1=C(C=C(C(=C1)Cl)S(N)(=O)=O)S(=O)(=O)N | C6H8ClN3O4S2
solvent | EtOH | 300 ml | CCO | C2H6O
catalyst | Pd/C | 750 mg | [Pd] | Pd
product | 2-Amino-5-sulfamoylbenzenesulfonamide | 9.58 g, 95% | NC1=C(C=C(C=C1)S(N)(=O)=O)S(=O)(=O)N | C6H9N3O4S2
